US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-3-METHYLBUTANAMIDE
Example 13 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-3-methylbutanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 10.79–10.51 (br, 1H), 8.85–8.67 (m, 1H), 8.01–7.81 (br, 1H), 7.70 (d, 1H, J=7.2 Hz), 7.47–7.14 (m, 11H), 6.89 (d, 1H, J=7.2 Hz), 5.03 (s, 1H), 3.53–3.26 (m, 4H), 2.96–2.80 (m, 2H), 2.78–2.52 (m, 3H), 2.44–2.14 (m, 2H), 2.26 (d, 2H, J=6.0 Hz), 2.14–1.94 (m, 3H), 1.94–1.76 (m, 2H), 1.10 (d, 6H, J=6.4 Hz); ESMS m/e: 512.3 (M+H)+; Anal. Calc. (HCl salt) C33H42ClN3O2.0.60CH2Cl2: C, 67.36; H, 7.27; N, 7.01. Found: C, 67.08; H, 7.57; N, 7.36.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-3-methylbutanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC(C)C)=O | C19H31N3O
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-3-METHYLBUTANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC(C)C)=O)C1=CC=CC=C1 | C33H41N3O2
